US07981906B2
(2S,3R)-3-Amino-2-((3-pyridinyl)methyl)-1-azabicyclo[2.2.2]octane di-p-toluoyl-D-tartrate salt (3.64 kg, 5.96 mol) and 10% aqueous sodium chloride solution (14.4 L, 46.4 mol) were added to a 72 L glass reaction flask equipped with a mechanical stirrer under an inert atmosphere. 5 M Sodium hydroxide (5.09 L) was added to the stirring mixture to adjust the pH of the mixture to pH 14. The mixture was then stirred for a minimum of 10 min. The aqueous solution was extracted with chloroform (4×12.0 L), and the combined organic layers were dried over anhydrous sodium sulfate (1.72 kg). The combined organic layers were filtered, and the filtrate was concentrated to obtain (2S,3R)-3-amino-2-((3-pyridinyl)methyl)-1-azabicyclo[2.2.2]octane (1.27 kg) as an oil.

reactant | (2S,3R)-3-Amino-2-((3-pyridinyl)methyl)-1-azabicyclo[2.2.2]octane di-p-toluoyl-D-tartrate salt | 5.96 mol, 3.64 kg | C1(=CC=C(C=C1)C(=O)[C@@]([C@@](C(=O)O)(O)C(=O)C1=CC=C(C=C1)C)(O)C(=O)O)C.N[C@H]1[C@@H](N2CCC1CC2)CC=2C=NC=CC2
reactant | sodium chloride | 46.4 mol, 14.4 L | [Cl-].[Na+]
reactant | Sodium hydroxide | 5 M, 5.09 L | [OH-].[Na+]
product | (2S,3R)-3-amino-2-((3-pyridinyl)methyl)-1-azabicyclo[2.2.2]octane | 1.27 kg | N[C@H]1[C@@H](N2CCC1CC2)CC=2C=NC=CC2 | C13H19N3
